* \\wsl.localhost\Ubuntu-22.04\home\miqueasgamero\my_files\transresistance_amplifier\amplifier.asc
XU1 load N003 Vcc Vee N001 TL081
R1 N001 N003 {R}
R2 N001 load {R}
R3 N003 0 {R}
R5 load N002 {R}
V1 N002 0 PULSE(0 1 0 1p 1p 9m 10m)
V2 Vcc 0 12
V3 0 Vee 12
C1 load 0 50p
Rf out_X load 10Meg
XU2 0 load Vcc Vee out_X OPAx209
C2 load 0 50p
XU3 0 load Vcc Vee out_Y OPAx209
R4 P001 load 100k
R6 out_Y P001 120k
R7 P001 0 120
.param R=10Meg
.tran 10m
.lib OPAx209.lib
* Fuente de corriente Howlland
* Amplificador de corriente
* Amplificador de corriente
.lib C:\Program Files\LTC\LTspiceXVII\lib\sub\TL081.sp
.backanno
.end
